US05504098
To 12 g of 7-benzothiazolesulfonic acid were added 120 ml of thionyl chloride and 1.2 ml of dimethylformamide. The resultant mixture was heated under reflux for 3 hours and the thionyl chloride was removed by distillation under reduced pressure to obtain a residue. The thus obtained residue was dissolved in 100 ml of ice water and adjusted to a pH of 6 with a saturated aqueous sodium carbonate solution. The resultant solution is subjected to extraction with 100 ml of dichloromethane, followed by separation of a dichloromethane phase. The dichloromethane phase was dropwise added to 100 ml of a dichloromethane solution containing 16.8 g of homopiperazine over 30 minutes while cooling with ice. The resultant mixture was stirred at a temperature of 0° C. to 5° C. for 1 hour to carry out a reaction. After completion of the reaction, the resultant mixture was washed with 200 ml of water and dried over anhydrous magnesium sulfate. Then, solvent removal was conducted by distillation under reduced pressure to obtain a residue. The thus obtained residue was subjected to purification by means of a chromatography column packed with 600 g of silica gel (Wakogel C-200, manufactured and sold by Wako Pure Chemical Industries, Ltd., Japan), using a mixed solvent of methanol and chloroform (5 to 10% methanol) as an eluent, to thereby obtain 10.8 g of 1-(7-benzothiazolesulfonyl)homopiperazine (yield: 65%).

reactant | 7-benzothiazolesulfonic acid | 12 g | S1C=NC2=C1C(=CC=C2)S(=O)(=O)O | C7H5NO3S2
reactant | thionyl chloride | 120 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | 1-(7-benzothiazolesulfonyl)homopiperazine | 10.8 g, yield: 65% | S1C=NC2=C1C(=CC=C2)S(=O)(=O)N2CCNCCC2 | C12H15N3O2S2
